Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cipro / erythromycin base / oxycodone
 
Attending: ___
 
Chief Complaint:
Difficulty Swallowing
 
Major Surgical or Invasive Procedure:
fiberoptic examination by ENT

 
History of Present Illness:
Mr. ___ is a ___ y.o. man with lupus(on plaquenil and 4mg pred
daily), diabetes, history of non-Hodgkin's lymphoma (___)
now presenting with low grade fever, sore throat of two days
duration, odynophagia, and ear pain R>L. 

He was seen at an OSH where CT was performed concerning for
epiglottic thickening, was given vanc/CTX and thereafter was
transferred to ___ for ?epiglottitis. 

On arrival to the ED vitals were T 99.0, HR 68, BP 111/89, RR18,
O2Sat 99% RA. He was given unasyn. He was seen by ENT who looked
and found he had a widely patent airway and diagnosed him with
supraglottitis and otitis media. They recommended 24 hrs of IV
decadron and IV antibiotics. He had no evidence of airway
compromise and was admitted to medicine for further care. 

On arrival to the floor he is already feeling improved he is now
able to swallow his own saliva. He feels the pain has improved 
to
___. He denies any sick contacts. 

14 point ros otherwise positive for dry cough otherwise negative
except HPI. 
 
Past Medical History:
Lupus 
RA 
BPH 
NHL 
DM
 
Social History:
___
Family History:
No family history of autoimmune diseases.
 
Physical Exam:
Admission physical exam
VS: Afebrile and vital signs stable (reviewed in bedside record)
General Appearance: pleasant, comfortable, no acute distress
Eyes: PERLL, EOMI, no conjuctival injection, anicteric
ENT: no sinus tenderness, MMM, oropharynx without exudate or
lesions, no supraclavicular or cervical lymphadenopathy, no JVD,
no carotid bruits, no thyromegaly or palpable thyroid nodules
Respiratory: CTA b/l with good air movement throughout
Cardiovascular: RR, S1 and S2 wnl, no murmurs, rubs or gallops
Gastrointestinal: nd, +b/s, soft, nt, no masses or HSM
Extremities: no cyanosis, clubbing or edema
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert, oriented to self, time, date, reason for
hospitalization.  
Psychiatric: pleasant, appropriate affect
GU: no catheter in place

Discharge physical exam 
T 98.1 PO, 131/71, 57, 20, 95 Ra 
Gen - no distress, well appearing, resting comfortably in bed 
HEENT - nc/at, moist mucous membranes, no tenderness over 
sinuses, erythema and pustules in posterior pharynx, slightly 
improved compared to prior, airway patent 
Eyes - anicteric, perrl
Neck - supple, no LAD appreciated, no palpable swelling 
___ - RRR, s1/2, no murmurs
Pulm - CTA b/l, no w/r/r
GI - soft, nt, nd, +BS
Ext - no peripheral edema
Skin - warm, dry, no rashes 
Psych - calm, cooperative
Neuro - non focal, aaox3, speech clear and coherent 

 
Pertinent Results:
CT scan at ___
IMPRESSION:
1. Mild epiglottic thickening concerning for epiglottitis

WBC 16.7
Hg 13.4
Hct 38.3
Plt 176
Throat for strep negative
Blood cultures - negative to date
 
Brief Hospital Course:
Mr. ___ is a ___ y.o. man with lupus (on plaquenil and 4mg 
prednisone daily), diabetes, history of non-Hodgkin's lymphoma 
(___) now presenting with low grade fever, sore throat of two 
days duration, odynophagia, and ear pain R>L found to have
supraglottitis, pharyngitis and otitis media. 

#Supraglottitis 
#Acute Otitis Media
He was seen by ENT and noted to have exudates in the throat, and 
a presentation consistent with otitis media as well as 
pharyngitis/supraglottitis. He had a fiberoptic examination with 
ENT to confirm this. Initially was placed on IV steroids and 
given IV unasyn and IV vancomycin. He had significant 
odynophagia prompting repeat exam by ENT however this ultimately 
improved and he was felt to be safe to transition to PO 
antibiotics. Notably he has a leukocytosis of 16k up from 14k, 
but this is attributed both to infection as well as IV steroids. 
His baseline WBC was around 6.9 in ___ and he will need 
this followed closely. He was advised to adhere to a diet of 
soft solids and continue chloraseptic throat spray as needed. 
-Augmentin oral susp x 7 days
-Bactrim x 7 days
-Soft solid diet
-Chloraseptic throat spray
-Repeat CBC within ___ days
-F/u arranged with ENT post d/c 
-Crush pills and take as tolerated
-Advised to hold metformin while on Bactrim ___ drug-drug 
interaction

#Lupus - Restart prednisone, plaquenil 
#Hypothyroid - levothyroxine
#HTN - propranolol
#DM - holding metformin as above, diabetic diet 

#Code Status - Full 
#Disposition - discharge home today given clinical improvement 

Time spent: 45 minutes 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO DAILY 
2. PredniSONE 4 mg PO DAILY 
3. Hydroxychloroquine Sulfate 300 mg PO BID 
4. Propranolol LA 60 mg PO DAILY 
5. Levothyroxine Sodium 50 mcg PO DAILY 
6. Ranitidine 150 mg PO DAILY 
7. Tamsulosin 0.4 mg PO QHS 
8. Atorvastatin 10 mg PO QPM 
9. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanate Susp. 875 mg PO Q8H Duration: 7 Days 
 
2.  Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN throat pain  
3.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 7 Days  
4.  Atorvastatin 10 mg PO QPM  
5.  Hydroxychloroquine Sulfate 300 mg PO BID  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  MetFORMIN (Glucophage) 500 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  PredniSONE 4 mg PO DAILY  
10.  Propranolol LA 60 mg PO DAILY  
11.  Ranitidine 150 mg PO DAILY  
12.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Otitis media
Pharyngitis
Supraglottitis 
Leukocytosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital with sore throat and 
difficulty swallowing, found to have infection in your throat. 
You will be sent home with two antibiotics and are asked to 
adhere to a soft diet. You may take your pills crushed if unable 
to tolerate them whole. A topical spray such as chloraseptic 
spray may help numb your throat. Please follow up with your PCP 
this week for a set of labwork including a CBC (blood test to 
check your white blood cell count) and BMP (to check your 
electrolytes). 

It has been a pleasure to care for you. We wish you the best!

Sincerely, 
Your care team at ___ 
 
Followup Instructions:
___